US03998834
To a mixture of 102 parts of 4-oxo-1-(2-phenyl-ethyl)-piperidine, 47 parts of aniline and 350 parts of acetic acid is added dropwise a solution of 36 parts of potassium cyanide in 100 parts of water, at a temperature between 35°-45° C (exothermic reaction). After the addition is complete, the cooling-bath is removed and the whole is stirred for 20 hours at room temperature. The reaction mixture is poured into 650 parts of ammonium hydroxide and 500 parts of crushed ice are added. The mixture is extracted with chloroform. The organic extract is dried over potassium carbonate, filtered and evaporated. The residue (solid) is triturated in diisopropylether. After keeping at room temperature, 4-anilino-4-cyano-1-(2-phenylethyl)-piperidine is obtained; mp. 120°-121° C.

reactant | 4-oxo-1-(2-phenyl-ethyl)-piperidine | O=C1CCN(CC1)CCC1=CC=CC=C1 | C13H17NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium cyanide | [C-]#N.[K+]
solvent | water | O | H2O
product | 4-anilino-4-cyano-1-(2-phenylethyl)-piperidine | N(C1=CC=CC=C1)C1(CCN(CC1)CCC1=CC=CC=C1)C#N | C20H23N3
